US09403846B2
Step 10. Synthesis of rel-N-{[(3S,4R,6S)-6-(cyclopropylmethyl)-3-(2,4-difluorophenyl)-4-(hydroxymethyl)tetrahydro-2H-pyran-3-yl]carbamothioyl}benzamide (C72)
Benzoyl isothiocyanate (0.6 g, 3.7 mmol) was added drop-wise to a solution of rel-[(2S,4R,5S)-5-amino-2-(cyclopropylmethyl)-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]methanol (C71) (1.10 g, 3.7 mmol) in dichloromethane (30 mL). After the reaction mixture had stirred at room temperature for 15 hours, it was concentrated in vacuo. Purification via silica gel chromatography (Gradient: 0% to 20% ethyl acetate in petroleum ether) provided the product as a brown solid. Yield: 1.14 g, 2.47 mmol, 67%. LCMS m/z 461 [M+H+].

reactant | Benzoyl isothiocyanate | 3.7 mmol, 0.6 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | rel-[(2S,4R,5S)-5-amino-2-(cyclopropylmethyl)-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]methanol | 3.7 mmol, 1.10 g | N[C@@]1([C@@H](C[C@@H](OC1)CC1CC1)CO)C1=C(C=C(C=C1)F)F | C16H21F2NO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | rel-N-{[(3S,4R,6S)-6-(cyclopropylmethyl)-3-(2,4-difluorophenyl)-4-(hydroxymethyl)tetrahydro-2H-pyran-3-yl]carbamothioyl}benzamide | C1(CC1)C[C@H]1C[C@H]([C@@](CO1)(C1=C(C=C(C=C1)F)F)NC(=S)NC(C1=CC=CC=C1)=O)CO | C24H26F2N2O3S
